data/oMe_Silver.jsonl
{"reaction_id": "NR-320_1-F_2-c1ccccc1_3-c1ccc(C2CCCCC2)cc1_4-B(O)O_5-OC(F)(F)F_6-CC(C)C_7-CC","level": "hard","name": "Willgerodt-Kindler Reaction","reactants_smiles": ["CC(=O)c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F)","N(CC(C)C)(CC)","S1SSSSSSS1"],"products_smiles": ["N(CC(C)C)(CC)C(=S)Cc1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F)"],"conditions": "Heat","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C=C(N(CC(C)C)(CC))c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by resonance withdrawal from the aromatic ring, forming an imine-like intermediate after dehydration."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+](CC(C)C)(CC)=C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))CSSSSSSS[S-]","step_weight": 0,"rationale": "The iminium carbon is electrophilic; polysulfide sulfur attacks, displacing a leaving group due to sulfur’s high nucleophilicity and polarizability."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(CC(C)C)(CC)C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))=CSSSSSSSS","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charge, driven by the basicity of nitrogen and the polar environment."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(CC(C)C)(CC)C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))C=[S+]SSSSSSSS","step_weight": 0,"rationale": "Another proton shift occurs to activate the sulfur atom for subsequent nucleophilic addition, aligning charges for stability."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N+](CC(C)C)(CC)2C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))C2SSSSSSSS","step_weight": 0,"rationale": "Nucleophilic sulfur attacks the activated iminium carbon, favored by the soft–soft interaction between sulfur and the polarized carbon."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))=C(N(CC(C)C)(CC))SSSSSSSS","step_weight": 0,"rationale": "Elimination of a proton restores conjugation and relieves ring strain, driven by thermodynamic stability of the conjugated system."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F))C(N(CC(C)C)(CC))=[S+]SSSSSSS","step_weight": 0,"rationale": "Proton transfer reorganizes the intermediate to place positive charge on sulfur, enhancing its leaving group ability for the next substitution."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N(CC(C)C)(CC)C(=S)Cc1c(F)c(c1ccccc1)c(c1ccc(C2CCCCC2)cc1)c(B(O)O)c1(OC(F)(F)F)","step_weight": 0,"rationale": "Final nucleophilic substitution by amine on the thiocarbonyl carbon occurs, favored by the electrophilicity of C=S and the good leaving ability of polysulfide."}],"description": "Under heating, the Willgerodt–Kindler reaction converts an aryl methyl ketone into a thiocarbonyl amide via sequential nucleophilic substitutions, proton transfers, and rearrangements. The amine and polysulfide react to form a thioamide, driven by resonance stabilization and favorable leaving group departure under thermal conditions."}
